US08461167B2
Ethyl 3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoate
A mixture of ethyl 3-iodo-4-methylbenzoate (845 mg, 2.9 mmol, 0.8 eq), N-(5-ethynylpyridin-2-yl)acetamide (3.5 mmol, 1.0 eq). Pd(PPh3)4 (51 mg, 0.044 mmol), CuI (20.4 mg, 0.11 mmol), and N,N-diisopropylethylamine (0.8 ml, 4.4 mmol) in 2 ml of DMF is heated at 55° C. (oil bath) for 1 hr under nitrogen. After cooling to r.t., the solvent is evaporated and DCM is added to dissolve the residue. The solution is washed with water and brine, dried and evaporated and the crude material is chromatographed with CombiFlash (DCM/MeOH).

reactant | ethyl 3-iodo-4-methylbenzoate | 2.9 mmol, 845 mg, 0.8 eq | IC=1C=C(C(=O)OCC)C=CC1C | C10H11IO2
reactant | N-(5-ethynylpyridin-2-yl)acetamide | 3.5 mmol, 1.0 eq | C(#C)C=1C=CC(=NC1)NC(C)=O | C9H8N2O
reactant | N,N-diisopropylethylamine | 4.4 mmol, 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.044 mmol, 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.11 mmol, 20.4 mg | [Cu]I
product | Ethyl 3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoate | C(C)(=O)NC1=CC=C(C=N1)C#CC=1C=C(C(=O)OCC)C=CC1C | C19H18N2O3
